Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Toe Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient seen ___ podiatric surgery clinic earlier today. Left 
foot
___ digit appears to be grossly infected w/ surrounding
cellulitis. Wound to the distal aspect of the L ___ digit does
not probe deep to bone, however will be beneficial to evaluate L
foot x-ray for any bony changes c/w osteomyelitis. Betadine
dressing was placed on L foot ___ digit. We will follow up labs
and L foot x-ray. Patient may require debridement of L ___ digit
based on x-ray findings, labs, etc. He will require IV abx for
his cellulitis and potential deeper diabetic foot infection.
Recommend broad spectrum (vanc/cipro/flagyl). Recommend 
admission
to medicine for management of his other comorbidities. We will
continue to follow along.

Mr. ___ is a ___ w DM2, PAD, toe amputations x2, Afib, CKD
III, OSA who presents from ___ clinic with left ___ toe
pain. 

Left foot pain started ___ night. No known injury to the 
foot
although he has noted a small amount of bleeding to that toe for
2 weeks. Persistent stabbing, burning pain throughout last week
worse with bearing weight/walking around. Pain has gradually
progressed since ___ from a ___ to ___. He also noticed
erythema around distal portion of top of left foot. On ___
noted spread of erythema up to top of the foot. Also noted 
chills
starting ___, no known fevers.

- ___ the ED, initial vitals were: T 98.6, HR 75, BP 132/74, RR 
16
96% RA 

- Exam was notable for:
General: well appearing laying ___ bed. 
Extremities: Left foot with pitting edema. Left foot diffusely
tender to palpation with pain worsening closer to ___ digit. 
warm
to palpation, with erythema on dorsal/distal aspect of foot. 
Left
second toe with ulceration at distal tip. Pulses not palpated on
left foot. Capillary refill less than 3 seconds. Right foot with
2+ ___ and DP, no edema. 

- Labs were notable for: CBC, CHEM10 WNL except for mildly
elevated BUN, INR 1.3. Lactate 0.9

- Studies were notable for:
Foot X-Ray: Bandage overlies the distal second toe.  Subtle
cortical irregularity at the distal second toe of indeterminate
age given lack of priors for comparison. Acute osteomyelitis
would not be excluded on this study; MRI is more sensitive.
Status post amputation of the third digit at the distal
metatarsal.  Midfoot degenerative changes. 

- The patient was given: Vanc/Cipro/Flagyl

- Podiatry were consulted, recommended inpatient admission for 
IV
antibiotics and probably debridement.

On arrival to the floor, the patient endorses the above story. 
He
states that he first noticed some foot pain ___ and then 
noticed
that his dog was sniffing/licking his toe more and noticed 
bloody
drainage. The pain has slowly and steadily increased since then.
He denies endorses some non-specific chills over the past week,
but denies fevers, chest pain, SOB, nausea, vomiting, diarrhea,
or constipation. He does states that he has been urinating a
little more than usual lately mostly at night, but denies
dysuria. His appetite and PO intake have been at baseline.

 
Past Medical History:
Atrial fibrillation 
Colonic adenoma 
Neuropathy, peripheral 
Leukocytoclastic vasculitis likely ___ Hep C 
Chronic pain 
Gastric polyp 
CKD stage 3, GFR ___ ml/min 
?Chronic hepatitis C
Chronic gout of foot 
OSA 
Peripheral Artery Disease: S/P amputation of lesser toe, right
Type 2 diabetes mellitus with diabetic peripheral angiopathy and
gangrene, with long-term current use of insulin 
Age-related incipient cataract of both eyes 
 
Social History:
___
Family History:
Mother and sister with diabetes, and Mother with possible
cardiovascular disease.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: ___ Temp: 98.1 PO BP: 111/69 HR: 77 RR: 18 O2
sat: 95% O2 delivery: RA FSBG: 94 
GENERAL: Alert and interactive. ___ no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Irregularly irregular. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation ___ all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
1+
bilaterally. L foot dressing c/d/I. See image ___ OMR from
___ clinic for wound images.
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation
decreased ___ BLEs below the knee bilaterally.

DISCHARGE EXAM:
===============
24 HR Data (last updated ___ @ 613)
    Temp: 97.4 (Tm 98.2), BP: 122/82 (112-139/75-94), HR: 85
(81-96), RR: 18 (___), O2 sat: 94% (94-96), O2 delivery: Ra,
Wt: 244.49 lb/110.9 kg  
GENERAL: Alert and interactive. ___ no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Irregularly irregular. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation ___ all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
1+
bilaterally. L foot dressing with betadine c/d/I. See image ___
OMR from ID for wound images.
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation
decreased ___ BLEs below the knee bilaterally.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:57PM BLOOD WBC-9.7 RBC-5.43 Hgb-17.0 Hct-50.6 MCV-93 
MCH-31.3 MCHC-33.6 RDW-13.8 RDWSD-46.3 Plt ___
___ 03:57PM BLOOD Neuts-70.8 Lymphs-18.7* Monos-8.7 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-6.87* AbsLymp-1.82 AbsMono-0.85* 
AbsEos-0.10 AbsBaso-0.05
___ 03:57PM BLOOD Glucose-82 UreaN-24* Creat-0.9 Na-137 
K-5.2 Cl-101 HCO3-24 AnGap-12
___ 07:15AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.8
___ 03:57PM BLOOD CRP-10.9*
___ 04:50PM BLOOD Vanco-13.0
___ 04:01PM BLOOD Lactate-0.9

RELEVANT LABS:
==============

___ 03:57PM BLOOD CRP-10.9*

IMAGING:
========
Foot xray ___:
Bandage overlies the distal second toe.  Subtle cortical 
irregularity at the distal second toe of indeterminate age given 
lack of priors for comparison. Acute osteomyelitis would not be 
excluded on this study; MRI is more sensitive.
 
Status post amputation of the third digit at the distal 
metatarsal.  Midfoot degenerative changes.

ABI ___:
Findings Doppler evaluations for both lower extremity arterial 
systems at
rest.  On the right all waveforms are triphasic from the femoral 
to the
dorsalis pedis artery.  Ankle-brachial index is 1.05.  The toe 
pressure is 109.  Pulse volume recordings are normal.
 
On the left Doppler tracings are triphasic femoropopliteal and 
posterior
tibial.  There monophasic at the dorsalis pedis.  Ankle-brachial 
___ index is 0.92.  The toe pressure is 63.  Pulse volume 
recordings show slight drop-off.
 
Impression normal arterial study on the right.  On the left 
there is mild
tibial artery occlusive disease
 
MICROBIOLOGY ___ 11:23 am SWAB      Source: L2nd toe. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   WOUND CULTURE (Final ___: 
      GRAM POSITIVE COCCUS(COCCI).    SPARSE GROWTH. 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED, THEY ARE NOT PRESENT 
___ this
         culture. 
         Work-up of organism(s) listed discontinued (except 
screened
         organisms) due to the presence of mixed bacterial flora 
detected
         after further incubation. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


DISCHARGE LABS:
===============

___ 07:35AM BLOOD WBC-5.9 RBC-5.31 Hgb-16.4 Hct-50.0 MCV-94 
MCH-30.9 MCHC-32.8 RDW-13.5 RDWSD-46.5* Plt ___
___ 07:35AM BLOOD Glucose-116* UreaN-20 Creat-0.9 Na-143 
K-4.4 Cl-106 HCO___ AnGap-___RIEF HOSPITAL COURSE:
======================
___ with history of DMII, HTN, PAD, HLD, OSA, peripheral 
neuropathy, and CKD presenting with L diabetic foot ulcer, 
cellulitis with concern for osteomyelitis. The patient was 
started on vanc/cipro/flagyl pending surgical debridement. 
Needed vascular clearance prior to debridement, but given delay 
___ OR date, was discharged on augmentin/bactrim with scheduled 
follow up with vascular surgery for angiogram and podiatry for 
debridement and likely toe amputation. 

ACUTE/ACTIVE ISSUES
===================
# Diabetic Ulcer
# Cellulitis 
# PAD 
Patient with increased discharge from a toe ulcer. Patient did 
not have fevers, chills or leukocytosis, but had an x-ray 
concerning for osteomyelitis and mildly elevated CRP to ~10. 
Started empirically with vanc/cipro/flagyl. Podiatry recommended 
NIAS prior to debridement which found mild tibial artery 
occlusive disease with ankle-brachial index of 0.93 and toe 
pressure of 63 ___ the left and normal findings on the right. 
Vascular recommended non-urgent angiogram and podiatry 
recommended angiogram prior to toe debridement. Given the delay 
___ procedures, ID was consulted for guidance on antibiotic 
treatment given past osteomyelitis. ___ the past, wound cultures 
showed mixed bacterial flora including GPCs. They recommended 
narrowing to Bactrim DS 1 tab BID and Augmentin BID until 
definitive surgical treatment. 

CHRONIC/STABLE ISSUES
=====================
#Diabetes II
Last A1c 5.7 ___
Patient with low blood sugars during admission and received 
reduced lantus 24U qhs with ISS. Was discharged on home regimen 
30U qhs + ISS.

#Atrial Fibrillation: CHADs2Vasc 3
Continued metoprolol 100MG QAM, 50MG QPM and Apixaban 5MG. 
Apixaban was briefly held given possibilities of procedures. 
Given upcoming procedures, the vascular team requested that 
patient start lovenox at discharge and hold the night before and 
the day of his angiogram. 

#Gout
Continued allopurinol

#Insomnia
Continued zolpidem 10MG QHS:PRN while ___ house

#Neuropathy
Patient was continued on home oxycodone. Attempted to restart 
gabapentin but patient reported previous reaction with joint 
swelling. Would consider starting another agent as an outpatient 
to reduce need of opioids.

#Hypogonadism
Clomiphene Citrate 50MG MWF not on formulary. Restarted on 
discharge.

#HTN
Continued Lisinopril.

#HLD
Increased Atorvastatin to 80MG QHS due to diabetes, PAD

TRANSITIONAL ISSUES:
=====================
[] Will continue SMX/TMP 1 DS TAB Q12H AND Amox-clav 875-125 mg 
q12h until definitive surgical treatment. 
[] Please ensure the patient has had vascular follow up on 
___ and podiatry follow up for debridement on ___. 
[] The patent will be on lovenox until the night before his 
angiogram tentatively scheduled for ___. He does NOT need to 
hold his apixaban prior to debridement with podiatry. 
[] For podiatry: Once surgery / debridement done, pls send 
bone/tissue for gram stain, aerobic/anaerobic cultures, fungal 
culture and pathology if warranted (margins if amp for example)
[] If the patient develops f/c/worsening foot pain/swelling 
ondischarge then will need to seek medical attention for IV abx 
and expedited surgery
[] After surgical debridement next week, pls call ___ 
CONSULT Team for input on abx choice and duration with the above 
data requested
[] Consider starting pregabalin versus TCA for neuropathy given 
current dependence on opioids.

# CODE: Full (confirmed)
# CONTACT: ___: ___

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. clomiPHENE citrate 50 mg oral 3X/WEEK 
2. Allopurinol ___ mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Lisinopril 5 mg PO DAILY 
5. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Metoprolol Succinate XL 100 mg PO QAM 
7. Metoprolol Succinate XL 50 mg PO QPM 
8. Apixaban 5 mg PO BID 
9. Multivitamins 1 TAB PO DAILY 
10. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
11. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab-cap by mouth 
twice a day Disp #*28 Tablet Refills:*0 
2.  Enoxaparin Sodium 110 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin [Lovenox] ___ mg/mL 1 syringe SC twice a day Disp 
#*10 Syringe Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tab-cap by mouth twice a day Disp #*28 Tablet Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
5.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Allopurinol ___ mg PO DAILY  
7.  Apixaban 5 mg PO BID  
8.  clomiPHENE citrate 50 mg oral 3X/WEEK  
9.  Lisinopril 5 mg PO DAILY  
10.  Metoprolol Succinate XL 100 mg PO QAM  
11.  Metoprolol Succinate XL 50 mg PO QPM  
12.  Multivitamins 1 TAB PO DAILY  
13.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
14.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Diabetic foot ulcer
Cellulitis
Peripheral artery disease

SECONDARY DIAGNOSIS
=====================
Type 2 diabetes
Atrial fibrillation
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear  Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I ___ THE HOSPITAL?  
- You came to the hospital after developing swelling, redness, 
and pain ___ your left foot concerning for infection.

WHAT HAPPENED TO ME ___ THE HOSPITAL?  
- You were started on antibiotics.
- The podiatry team recommended surgery, but needed to wait 
until vascular surgery did their intervention.
- Given vascular surgery would not occur until the following 
week you were prescribed oral antibiotics until these 
procedures.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue with using lovenox injections and hold the 
lovenox injection the night before and the morning of your 
procedure with vascular surgery. Please restart your apixaban 
afterwards unless otherwise told by your doctor. 
- Continue to take all your medicines and keep your 
appointments.
- Your vascular team will be ___ touch about the date of your 
procedure. If you do not hear from them by ___, please call 
them at the number listed below.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___